US07105679B2
Acetic acid 3-(2,4-dimethoxyphenyl)-7-hydroxy-4-methyl-2-oxo-2H-chromen-7-yl ester
A mixture of 2,4-dihydroxyacetophenone (2.233 g, 14.67 mmol, 1 eq), 2, 4-dimethoxyphenylacetic acid (2.88 g, 14.67 mmol, 1 eq), acetic anhydride (7.5 mL, 78 mmol, 5 eq) and triethylamine (1.49 mL, 2.05 mmol, 1 eq) was stirred and heated to reflux under nitrogen for 48 hours. After cooling to room temperature the dark syrupy reaction mixture was poured into ice water (˜450 mL). The suspension of sticky, semisolid product was neutralized by slowly adding solid NaHCO3 to the mixture. The mixture was then allowed to solidify overnight. The dark solid was isolated by filtration, washed with water, sucked dry, and recrystallized from acetic acid to yield the title compound as an ivory crystalline solid. A second crop (0.95g, 18.3%) was isolated from the mother liquor.

reactant | 2,4-dihydroxyacetophenone | 14.67 mmol, 2.233 g, 1 eq | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | 2, 4-dimethoxyphenylacetic acid | 14.67 mmol, 2.88 g, 1 eq | COC1=C(C=CC(=C1)OC)CC(=O)O | C10H12O4
reactant | acetic anhydride | 78 mmol, 7.5 mL, 5 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 2.05 mmol, 1.49 mL, 1 eq | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Acetic acid 3-(2,4-dimethoxyphenyl)-7-hydroxy-4-methyl-2-oxo-2H-chromen-7-yl ester | COC1=C(C=CC(=C1)OC)C1C(OC2=CC(C=CC2=C1C)(O)OC(C)=O)=O | C20H20O7
